US09428528B2
Step 3 Preparation of 2,2-difluoro-1-((4S,5R)-4-(fluoromethyl)-5-(4-(2-(hydroxymethyl)thiazol-5-yl)phenyl)-2,2-dimethyloxazolidin-3-yl)ethanone
To a solution of 2,2-difluoro-1-((4S,5R)-4-(fluoromethyl)-2,2-dimethyl-5-(4-(2-((triisopropylsilyloxy)methyl)thiazol-5-yl)phenyl)oxazolidin-3-yl)ethanone (2.6 g, 4.8 mmol) in tetrahydrofuran (50 mL) is added tetrabutylammonium fluoride (5.2 mL of a 1M solution). The reaction is stirred at room temperature for 1 hour. The reaction is diluted with ethylacetate (100 mL) and washed with water and brine. The organic phase is dried (Na2SO4) and concentrated under vacuum. The crude material is chromatographed eluting from 100% hexanes to 75:25 ethylacetate:hexanes to afford the title compound (1.8 g): m/z (CI) M+H 401.

reactant | 2,2-difluoro-1-((4S,5R)-4-(fluoromethyl)-2,2-dimethyl-5-(4-(2-((triisopropylsilyloxy)methyl)thiazol-5-yl)phenyl)oxazolidin-3-yl)ethanone | 4.8 mmol, 2.6 g | FC(C(=O)N1C(O[C@@H]([C@H]1CF)C1=CC=C(C=C1)C1=CN=C(S1)CO[Si](C(C)C)(C(C)C)C(C)C)(C)C)F | C27H39F3N2O3SSi
reactant | tetrabutylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
solvent | ethylacetate | 100 mL | C(C)OC(C)=O | C4H8O2
product | 2,2-difluoro-1-((4S,5R)-4-(fluoromethyl)-5-(4-(2-(hydroxymethyl)thiazol-5-yl)phenyl)-2,2-dimethyloxazolidin-3-yl)ethanone | 1.8 g | FC(C(=O)N1C(O[C@@H]([C@H]1CF)C1=CC=C(C=C1)C1=CN=C(S1)CO)(C)C)F | C18H19F3N2O3S
